Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abnormal CT
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with no known past medical
history (does not go to doctor) who presents today with sudden
onset headache and left visual field cut.

She states that while at work on the computer two days ago, she
developed sudden onset of a pounding headache on the right side,
behind her eye. At the same time, she noticed something was 
wrong
with her vision on the left, although she couldn't completely
characterize it. She says it was "out of focus." This persisted
all day. The next day, the headache was slightly improved but 
she
was nauseated. She went to bed and then this morning her 
headache
and nausea were gone. However, the vision on the left side was
still not clear and so she presented to urgent care.

At urgent care, a ___ was done showing a right occipital
hypodensity and so she was transferred to ___.

During this time, she denies any trouble with language, any
facial droop or focal weakness/numbness.

On neurologic review of systems, the patient denies diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the patient denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Obesity, otherwise none known.
 
Social History:
___
Family History:
No family history of strokes, migraines or blood
clots. Parents with hypertension.
 
Physical Exam:
On admission:
Physical Exam:
Vitals: 97.4 115 157/93 18 97% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Breathing comfortably
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read although has some difficulty due to visual loss. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. The pt had good knowledge of current events. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. Left visual field cut, more dense
in the lower field.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. Decreased sensation to pinprick in a stocking distribution
in the legs. Slightly reduced vibratory and proprioception at 
the
toes bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was mute bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred

On discharge: pt returned to baseline, no visual field deficits, 
no macropsia

 
Pertinent Results:
___ 04:25PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG
___ 04:25PM   cTropnT-<0.01
___ 04:25PM   GLUCOSE-121* UREA N-15 CREAT-1.2* SODIUM-139 
POTASSIUM-3.6 CHLORIDE-98 TOTAL CO2-26 ANION GAP-19
___ 08:01PM   ALT(SGPT)-24 AST(SGOT)-24 ALK PHOS-87 TOT 
BILI-0.5
___ 08:01PM   ALBUMIN-4.9
___ 08:01PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

NCHCT: 1. Area of hypodensity in the right occipital region may 
reflect vasogenic edema due to a possible underlying mass or 
subacute infarct.  Further evaluation with MRI is recommended. 
2. No intracranial hemorrhage. 

CTA head/neck: 1. Persistent moderate hypodensity in the right 
occipital lobe with mild local 
mass effect, most likely a recent infarction.  A mass is less 
likely. 
2. CTA of the head and neck demonstrates no evidence for 
flow-limiting 
stenosis, dissection, or aneurysm. 

MRI head: Moderate-sized early subacute infarction in the right 
occipital lobe in the right posterior cerebral artery territory, 
involving the right occipital pole. 
There is mild associated hyperemia and possible mild faint 
contrast 
enhancement, the latter likely secondary to breakdown of the 
blood-brain 
barrier. 

 
Brief Hospital Course:
___ was admitted for symptoms of sudden onset 
headache and left visual field cut. Exam initially showed a left 
visual field cut but has improved during the course of her 
hospitalization, now back to normal with no metamorphopsia. She 
was found to have a right PCA stroke affecting her right 
occipital lobe. Stroke risk factors include hypertension. Her 
A1c is 5.8%, LDL 86. CTA head/neck did not show dissection or 
vessel cut off. TEE negative for clot/PFO. She was placed on a 
30 day holter monitor to look for atrial fibrillation, in which 
case she will need systemic anticoagulation. She has not seen a 
PCP in years and will need to follow up with one for general 
health maintenance. She was started on lisinopril 20mg daily and 
will need outpatient titration for goal of normotension. She 
will also need to be evaluated by ophthalmology for visual field 
testing.

Transitional issues
1. Health maintenance with PCP
2. Titrate BP to <140/80
3. Ophthalmology follow-up for visual field testing  

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (X) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - () No  
4. LDL documented? (X) Yes (LDL =86 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (X) No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (X) No  
9. Discharged on statin therapy? () Yes - (X) No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (X) N/A  
 
 
Medications on Admission:
N/A
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
2. Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right posterior circulation stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro: nonfocal

 
Discharge Instructions:
Dear Ms. ___,
  
You were hospitalized due to symptoms of vision changes 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms. 
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- high blood pressure
  
We are changing your medications as follows:  
- start aspirin 81mg daily
- start lisinopril 20mg daily
 
Please take your other medications as prescribed.  

Please follow-up with Neurology and your primary care physician 
as listed below. 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___